US05733912
11a. 7a-(2,6-dichloro-3-pyridinyl)-hexahydro-1H-pyrrolizine
A solution of 2.5M nBuLi (675 μL, 1.7 mmol) in hexanes was added to diisopropylamine (220 μL, 1.7 mmol) in THF (4.5 mL) at ambient temperature. After 10 minutes of stirring, the reaction mixture was cooled to -78° C., 2,6-dichloropyridine (237 μL, 1.60 mmol) was added neat, and stirring was continued for 1 hour at -78° C. 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate (500 mg, 2.40 mmol) was added, and the reaction mixture was allowed to stir for 2 hours at -78° C. then warm to ambient temperature. A solution of 2N HCl was added, and the mixture was then poured over EtOAc. The phases were separated, and the aqueous phase was basified with 15% NaOH and extracted with CH2Cl2 (2×). The CH2Cl2 fractions were combined, dried (MgSO4) and concentrated, and the residue was chromatographed (silica gel; CHCl3 /MeOH, 98:2) to afford a clear oil (70.6 mg, 17%). MS (CI/NH3) m/e: 257/259 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ1.47-1.61 (m, 2H), 1.77-1.90 (m, 2H), 2.10-2.25 (m, 4H), 2.67-2.75 (m, 2H), 3.03-3.11 (m, 2H), 7.19 (d, J=8.5 Hz, 1H), 8.37 (d, J=8.5 Hz, 1H).

reactant | nBuLi | 1.7 mmol, 2.5M, 675 μL | [Li]CCCC
reactant | diisopropylamine | 1.7 mmol, 220 μL | C(C)(C)NC(C)C | C6H15N
reactant | 2,6-dichloropyridine | 1.60 mmol, 237 μL | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate | 2.40 mmol, 500 mg | Cl(=O)(=O)(=O)[O-].C1CC[N+]=2CCCC12
reactant | HCl | 2N | Cl | ClH
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7a-(2,6-dichloro-3-pyridinyl)-hexahydro-1H-pyrrolizine | 70.6 mg, 17% | ClC1=NC(=CC=C1C12CCCN2CCC1)Cl | C12H14Cl2N2
